2122-03-14 08:16:00 Physician Attending Progress Note
Chief Complaint: resp distress, Afib with RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight events: did not wear CPAP
   More somnelent this AM
   ABG 7.33/64/77 on 5 liters
   Chest while lying on left side, ECG unchanged, sat up in a chair and
   felt better
   Trop 0.03 but stable
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2122-3-13**] 09:45 AM: mild pHTN, no LV fn
 ULTRASOUND - At [**2122-3-13**] 09:57 AM lenis done at the bedside
 neg
   for DVT
 PICC LINE - START [**2122-3-13**] 11:59 AM - basilic
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2122-3-13**] 09:44 AM
   Heparin Sodium (Prophylaxis) - [**2122-3-13**] 02:00 PM
   Other medications:
   Colace, sc hep, Fluticasone, Synthroid, Lorpessor, Xopenex, Diltiazem,
   Dig, insulin, Titrop, Simva, PPI, Lyrica
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-14**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 88 (79 - 107) bpm
   BP: 102/47(60) {76/28(43) - 123/68(97)} mmHg
   RR: 15 (15 - 25) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    840 mL
                  PO:
                                                                    490 mL
                  TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  3,255 mL
                                                                    605 mL
   Urine:
                                                                  2,205 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,415 mL
                                                                   -605 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   Gen: obse, lying in bed, somnelent but arousable
   HEENT: o/p clear
   CV: irreg irreg
   Chest: fair air movement
   Abd: obese soft Nt
   Ext: 3+ edema
   Neuro: conversant but arousable, able to answer questions but slowed
   Labs / Radiology
   8.3 g/dL
   233 K/uL
   118 mg/dL
   2.0 mg/dL
   31 mEq/L
   4.3 mEq/L
   63 mg/dL
   102 mEq/L
   142 mEq/L
   25.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2122-3-13**]  03:53 AM
                             [**2122-3-13**]  04:27 AM
                             [**2122-3-13**]  09:37 PM
                             [**2122-3-14**]  12:57 AM
   WBC
   10.3
   11.5
   Hct
   29.3
   24.4
   25.7
   Plt
   233
   233
   Cr
   2.2
   2.0
   2.0
   TropT
   0.03
   TCO2
   30
   Glucose
   [**Telephone/Fax (3) 4910**]
   Other labs: PT / PTT / INR:13.4/26.4/1.1, CK / CKMB /
   Troponin-T:178/5/0.03, ALT / AST:24/20, Alk Phos / T Bili:104/0.2,
   Differential-Neuts:88.1 %, Lymph:10.5 %, Mono:1.2 %, Eos:0.1 %, Lactic
   Acid:1.1 mmol/L, LDH:258 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:5.5
   mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ATRIAL FIBRILLATION (AFIB)
   1.       Hypercarbic Resp Insufficiency: in setting of known OSA and
   likely obesity hypovent
 will try NIPPV during day and for certain to
   wear at night
   2.       Altered mental satus: hypercarbia is #1 on the differential
   but would cast broader net with check finger stick, bolus back up to
   get MAP tpo 65 or 7-0 in case low cerebral perfusion pressure is an
   issue and the check head CT if remains altered after NIPPV
   3.       Afib: reasonable rate control
 had been held with low BP but
   possible spurious cuff [**Location (un) 118**]. Again not on anticoag given bleeding
   but is in Af making CVA a possibility
   4.       Anemia: gyn bleeding, HCT stable but no overt
   5.       ARF: stable
 watch UOP- has been diuresing well,
   6.       Liver hemangioma: no acute intervention
 surgery following
   Remaining issues as per Housestaff notes
 reviewed and examined.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2122-3-13**] 11:59 AM
   18 Gauge - [**2122-3-13**] 06:17 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with family
   Code status: FULL
   Disposition: ICU until sort out needs for NIPPV
   Total time spent: 55

2122-03-15 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 4886**] is a 74 year-old woman with a history of
   CHF, COPD on home O2, transferred from [**Hospital6 **] for further
   management of a newly diagnosed, 20 cm hepatic lesion, and also found
   to be dyspneic.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2122-3-14**] 09:30 AM
 NON-INVASIVE VENTILATION - STOP [**2122-3-14**] 12:21 PM
 BLOOD CULTURED - At [**2122-3-14**] 01:00 PM
 URINE CULTURE - At [**2122-3-14**] 01:00 PM
   [**2122-3-13**]
   -LENI's negative for DVT
   -Global LV function probably normal (EF 55-60%) but can't r/o focal
   abnormality.  Mild RV dilation with normal systolic function. Moderate
   MR. Mild pulmonary HTN. Small pericardial effusion without signs of
   tamponade
   -OB/Gyn saw and said in midst of w/u for post-menopausal bleeding at
   Brown, thought amt of bleeding negligible and not contraindication to
   anticoagulation if necessary
   -Improved in the afternoon and weaned to 2L and comfortable sitting up
   -Family requested transfer on call out back to hospital she was
   transferred from but this couldn't be accomplished last night due to
   bed issues.  Will re-address in AM.
   -Pt redeveloped chest discomfort o/n in center of chest but resolved
   slightly with ntg and impressively w/ repositioning to chair
   _______________________________________________
   [**2122-3-14**]
   - In am, increasingly somnolent in decr ability to arouse. Resolved
   after BIPAP for a couple hours. Did well during day up and responsive
   in chair
   -Digoxin level 0.7
   - Transplant surgery wanted re- CT but pt not stable from resp standpt
   to go to CT scanner lying flat
   - ordered bowel regimen and plan to guaiac stools
   - belly pain after lunch. Benign belly exam. Ordered tums and
   simethicone PRN
   - Got metoprolol 5 IV x1 for tachycardia in afternoon
   -I/O goal keep neg- at 9p -1L
   - OSH blood cultures from [**3-12**] + on [**1-18**] bottles for GPC in clusters.
   Will plan to give vanco if spikes but not currently showing any signs/
   sx of infection
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2122-3-14**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2122-3-14**] 02:07 PM
   Metoprolol - [**2122-3-14**] 04:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-15**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.7
   HR: 85 (83 - 124) bpm
   BP: 85/40(52) {72/19(41) - 119/66(74)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    720 mL
                  PO:
                                                                    720 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    390 mL
   Urine:
                                                                  1,870 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,150 mL
                                                                   -390 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 504 (426 - 831) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.37/56/77/29/4
   Ve: 11.1 L/min
   PaO2 / FiO2: 257
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   232 K/uL
   9.0 g/dL
   142 mg/dL
   1.6 mg/dL
   29 mEq/L
   4.2 mEq/L
   53 mg/dL
   104 mEq/L
   144 mEq/L
   28.0 %
   8.5 K/uL
        [image002.jpg]
                             [**2122-3-13**]  03:53 AM
                             [**2122-3-13**]  04:27 AM
                             [**2122-3-13**]  09:37 PM
                             [**2122-3-14**]  12:57 AM
                             [**2122-3-14**]  08:20 AM
                             [**2122-3-14**]  10:13 AM
                             [**2122-3-14**]  11:09 AM
                             [**2122-3-15**]  04:33 AM
   WBC
   10.3
   11.5
   8.5
   Hct
   29.3
   24.4
   25.7
   28.2
   28.0
   Plt
   233
   233
   232
   Cr
   2.2
   2.0
   2.0
   1.8
   1.6
   TropT
   0.03
   0.02
   TCO2
   30
   34
   34
   Glucose
   [**Telephone/Fax (3) 4931**]30
   142
   Other labs: PT / PTT / INR:13.1/29.5/1.1, CK / CKMB /
   Troponin-T:118/3/0.02, ALT / AST:22/14, Alk Phos / T Bili:104/0.2,
   Differential-Neuts:88.1 %, Lymph:10.5 %, Mono:1.2 %, Eos:0.1 %, Lactic
   Acid:0.9 mmol/L, LDH:253 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4886**] is a 74 year-old woman with a history of CHF, COPD on home
   O2, transferred from [**Hospital6 **] for further management of a
   newly diagnosed, 20 cm hepatic lesion, and also found to be dyspneic.
   #. Acute on chronic hypoxic respiratory failure:  Less concern for PE
   given LENIs negative for DVT and the patient
s initial pain resolved.
   Most likely chest pain secondary to some volume overload and pulmonary
   edema which has now improved.  Patient oxygenated well on 2 L
   yesterday.  No signs or symptoms of pneumonia.
   -bronchodilators PRN
   -attempt to keep fluid balance equal
   -restart home dose of lasix
   -Patient likely with some element of diastolic dysfxn and does not
   tolerate tachycardia or HTN well from a pulmonary standpoint
   -will attempt to transfer back to [**Hospital3 291**], as family wishes to have
   patient closer at home, and no acute issues any longer.
   #. Hepatic hemangioma:  The finding on CT was essentially an
   incidentiloma, as patient's symptoms were on left side of chest and
   abdomen.  No evidence of hemodynamic compromise.
   - f/u surgery reccs
   - Per liver transplant service, will need to follow-up with liver
   surgeon as outpatient for possible resection
   #. COPD:  Management of dyspnea as above.  ABG is consistent with
   chronic respiratory acidosis with metabolic compensation.  Obtundation
   this AM most likely secondary to hypercarbia driven by OSA and
   depressed respiratory drive secondary to increased O2.
   - nebs PRN
   -O2 Sat goal of 90-92%
   -Trial of NPPV
   #. ?Congestive heart failure:  Echocardiogram more consistent with
   diastolic dysfxn than systolic dysfxn and patient improved w/ diuresis
   and rate control yesertday.
   -Aim for equal fluid balance today
   -optimize BP and rate
   #A. fib with RVR:  Was in SVT on arrival to [**Hospital Unit Name 4**] and ventricular rate
   slowed with metoprolol 5mg IV x 1 and diltiazem 10mg IV x 2.  Required
   dilt drip temporarily but then transitioned to PO.  Difficulty
   tolerating due to relative hypotension.
   - continue aspirin but CHADS score of 3 (HTN, age, diabetes) based on
   risk factors--may benefit incrementally from warfarin as an outpatient
   - PO dltiazem and metoprolol as tolerated by blood pressure
   #Hypotension: Asymptomatic, quite possibly her relative hypotension
   secondary to exquisite volume sensitivity due to RV dysfxn and
   pulmonary HTN.  Probably precipitated by rapid volume change and large
   diuresis.
   -attempt to maintain euvolemia today.
   #. Chronic kidney disease:  Etiology unknown but likely represents
   diabetic or hypertensive nephropathy.  Improving.
   - renally dose meds
   - follow UOP
   #. History of uterine bleeding:  Patient is s/p dilation and curettage
   and in the midst of an extensive post-menopausal bleeding w/u at
   Brown.  OB felt no indication to anticoagulation if otherwise
   intubated.
   FEN:  diabetic, heart healthy diet
   PPX:
   -DVT ppx with heparin sc
   -Bowel regimen with colace, senna
   - Pain management with tylenol
   ACCESS:  PIV's
   CODE STATUS:  Presumed full
   EMERGENCY CONTACT:  [**Name (NI) **], [**Name (NI) 1788**] [**Name (NI) **] [**Telephone/Fax (1) 4889**] (h) [**Telephone/Fax (1) 4890**]
   (c)
   DISPOSITION:  Family requested transfer back to previous hospital if
   possible due to travel concerns.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-3-13**] 11:59 AM
   18 Gauge - [**2122-3-15**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-03-15 10:50:00 Physician Attending Progress Note
Chief Complaint: hypercarbic resp distress,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Altered yesterday AM, did well with BIPAP
   OPSH called with GPXC in clusters, cx here NTD
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2122-3-14**] 09:30 AM
 NON-INVASIVE VENTILATION - STOP [**2122-3-14**] 12:21 PM
 BLOOD CULTURED - At [**2122-3-14**] 01:00 PM
 URINE CULTURE - At [**2122-3-14**] 01:00 PM
                                              History obtained from Patient
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2122-3-14**] 04:59 PM
   Heparin Sodium (Prophylaxis) - [**2122-3-15**] 08:45 AM
   Omeprazole (Prilosec) - [**2122-3-15**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-15**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 97 (83 - 124) bpm
   BP: 89/46(57) {72/19(41) - 119/66(74)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    720 mL
                                                                    400 mL
   PO:
                                                                    720 mL
                                                                    400 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    865 mL
   Urine:
                                                                  1,870 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,150 mL
                                                                   -465 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 504 (426 - 504) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.37/56/77/29/4
   Ve: 11.1 L/min
   PaO2 / FiO2: 257
   Physical Examination
   Gen: obese woman sitting up in chair
   CV: irreg irreg
   Chest: dimished BS bases, no wheeze
   Abd: obese soft NT
   Ext: 3+ edema ([**Month (only) 453**] from yesterday)
   Neuro: alert conversant NAD
   Labs / Radiology
   9.0 g/dL
   232 K/uL
   142 mg/dL
   1.6 mg/dL
   29 mEq/L
   4.2 mEq/L
   53 mg/dL
   104 mEq/L
   144 mEq/L
   28.0 %
   8.5 K/uL
        [image002.jpg]
                             [**2122-3-13**]  03:53 AM
                             [**2122-3-13**]  04:27 AM
                             [**2122-3-13**]  09:37 PM
                             [**2122-3-14**]  12:57 AM
                             [**2122-3-14**]  08:20 AM
                             [**2122-3-14**]  10:13 AM
                             [**2122-3-14**]  11:09 AM
                             [**2122-3-15**]  04:33 AM
   WBC
   10.3
   11.5
   8.5
   Hct
   29.3
   24.4
   25.7
   28.2
   28.0
   Plt
   233
   233
   232
   Cr
   2.2
   2.0
   2.0
   1.8
   1.6
   TropT
   0.03
   0.02
   TCO2
   30
   34
   34
   Glucose
   [**Telephone/Fax (3) 4931**]30
   142
   Other labs: PT / PTT / INR:13.1/29.5/1.1, CK / CKMB /
   Troponin-T:118/3/0.02, ALT / AST:22/14, Alk Phos / T Bili:104/0.2,
   Differential-Neuts:88.1 %, Lymph:10.5 %, Mono:1.2 %, Eos:0.1 %, Lactic
   Acid:0.9 mmol/L, LDH:253 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ATRIAL FIBRILLATION (AFIB)
   1.       Hypercarbic Resp Insufficiency: in setting of known OSA and
   likely obesity hypovent
 did very well with NIPPVB - will try NIPPV
   during day and for certain to wear at night
   2.       Altered mental satus: resolved with NIPPV
   3.       Afib: reasonable rate control
 low BP but possible spurious
   cuff [**Location (un) 118**]. Again not on anticoag given bleeding but is in Af making
   CVA a possibility
   4.       Anemia: gyn bleeding, HCT stable but no overt
   5.       ARF: stable
 watch UOP- has been diuresing well on her own
   today
   6.       Liver hemangioma: no acute intervention
 surgery following -
   Remaining issues as per Housestaff notes
 reviewed and examined.
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   PICC Line - [**2122-3-13**] 11:59 AM
   18 Gauge - [**2122-3-15**] 12:00 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:  with pt and husband
   [**Name (NI) 156**] status: Full code
   Disposition : call out to floor
 can call [**Hospital 1215**] to see if we can
   get a bed for her there

2122-03-16 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Ms. [**Known lastname 4886**] is a 74 year-old woman with a history of CHF, COPD on home
   O2, transferred from [**Hospital6 **] for further management of a
   newly diagnosed, 20 cm hepatic lesion, and also found to be dyspneic.
   24 Hour Events:
   [**2122-3-13**]
   -LENI's negative for DVT
   -Global LV function probably normal (EF 55-60%) but can't r/o focal
   abnormality.  Mild RV dilation with normal systolic function. Moderate
   MR. Mild pulmonary HTN. Small pericardial effusion without signs of
   tamponade
   -OB/Gyn saw and said in midst of w/u for post-menopausal bleeding at
   Brown, thought amt of bleeding negligible and not contraindication to
   anticoagulation if necessary
   -Improved in the afternoon and weaned to 2L and comfortable sitting up
   -Family requested transfer on call out back to hospital she was
   transferred from but this couldn't be accomplished last night due to
   bed issues.  Will re-address in AM.
   -Pt redeveloped chest discomfort o/n in center of chest but resolved
   slightly with ntg and impressively w/ repositioning to chair
   _______________________________________________
   [**2122-3-14**]
   - In am, increasingly somnolent in decr ability to arouse. Resolved
   after BIPAP for a couple hours. Did well during day up and responsive
   in chair
   -Digoxin level 0.7
   - Transplant surgery wanted re- CT but pt not stable from resp standpt
   to go to CT scanner lying flat
   - ordered bowel regimen and plan to guaiac stools
   - belly pain after lunch. Benign belly exam. Ordered tums and
   simethicone PRN
   - Got metoprolol 5 IV x1 for tachycardia in afternoon
   -I/O goal keep neg- at 9p -1L
   - OSH blood cultures from [**3-12**] + on [**1-18**] bottles for GPC in clusters.
   Will plan to give vanco if spikes but not currently showing any signs/
   sx of infection
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2122-3-15**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2122-3-15**] 02:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-16**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 83 (79 - 99) bpm
   BP: 91/41(54) {88/38(54) - 116/62(99)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  1,200 mL
                                                                    150 mL
   PO:
                                                                  1,200 mL
                                                                    150 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                    585 mL
   Urine:
                                                                  1,845 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -645 mL
                                                                   -435 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 690 (485 - 690) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: ///33/
   Ve: 7.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   198 K/uL
   8.3 g/dL
   137 mg/dL
   1.5 mg/dL
   33 mEq/L
   4.2 mEq/L
   41 mg/dL
   106 mEq/L
   145 mEq/L
   25.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2122-3-13**]  03:53 AM
                             [**2122-3-13**]  04:27 AM
                             [**2122-3-13**]  09:37 PM
                             [**2122-3-14**]  12:57 AM
                             [**2122-3-14**]  08:20 AM
                             [**2122-3-14**]  10:13 AM
                             [**2122-3-14**]  11:09 AM
                             [**2122-3-15**]  04:33 AM
                             [**2122-3-16**]  03:10 AM
   WBC
   10.3
   11.5
   8.5
   8.0
   Hct
   29.3
   24.4
   25.7
   28.2
   28.0
   25.5
   Plt
   233
   233
   232
   198
   Cr
   2.2
   2.0
   2.0
   1.8
   1.6
   1.5
   TropT
   0.03
   0.02
   TCO2
   30
   34
   34
   Glucose
   [**Telephone/Fax (3) 4931**]30
   142
   137
   Other labs: PT / PTT / INR:13.1/29.5/1.1, CK / CKMB /
   Troponin-T:118/3/0.02, ALT / AST:22/14, Alk Phos / T Bili:104/0.2,
   Differential-Neuts:88.1 %, Lymph:10.5 %, Mono:1.2 %, Eos:0.1 %, Lactic
   Acid:0.9 mmol/L, LDH:253 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4886**] is a 74 year-old woman with a history of CHF, COPD on home
   O2, transferred from [**Hospital6 **] for further management of a
   newly diagnosed, 20 cm hepatic lesion, and also found to be dyspneic.
   #. Acute on chronic hypoxic respiratory failure:  Less concern for PE
   given LENIs negative for DVT and the patient
s initial pain resolved.
   Most likely chest pain secondary to some volume overload and pulmonary
   edema which has now improved.  Patient oxygenated well on 2 L
   yesterday.  No signs or symptoms of pneumonia.
   -bronchodilators PRN
   -attempt to keep fluid balance equal
   -restart home dose of lasix
   -Patient likely with some element of diastolic dysfxn and does not
   tolerate tachycardia or HTN well from a pulmonary standpoint
   -will attempt to transfer back to [**Hospital3 291**], as family wishes to have
   patient closer at home, and no acute issues any longer.
   #. Hepatic hemangioma:  The finding on CT was essentially an
   incidentiloma, as patient's symptoms were on left side of chest and
   abdomen.  No evidence of hemodynamic compromise.
   - f/u surgery reccs
   - Per liver transplant service, will need to follow-up with liver
   surgeon as outpatient for possible resection
   #. COPD:  Management of dyspnea as above.  ABG is consistent with
   chronic respiratory acidosis with metabolic compensation.  Obtundation
   this AM most likely secondary to hypercarbia driven by OSA and
   depressed respiratory drive secondary to increased O2.
   - nebs PRN
   -O2 Sat goal of 90-92%
   -Trial of NPPV
   #. ?Congestive heart failure:  Echocardiogram more consistent with
   diastolic dysfxn than systolic dysfxn and patient improved w/ diuresis
   and rate control yesertday.
   -Aim for equal fluid balance today
   -optimize BP and rate
   #A. fib with RVR:  Was in SVT on arrival to [**Hospital Unit Name 4**] and ventricular rate
   slowed with metoprolol 5mg IV x 1 and diltiazem 10mg IV x 2.  Required
   dilt drip temporarily but then transitioned to PO.  Difficulty
   tolerating due to relative hypotension.
   - continue aspirin but CHADS score of 3 (HTN, age, diabetes) based on
   risk factors--may benefit incrementally from warfarin as an outpatient
   - PO dltiazem and metoprolol as tolerated by blood pressure
   #Hypotension: Asymptomatic, quite possibly her relative hypotension
   secondary to exquisite volume sensitivity due to RV dysfxn and
   pulmonary HTN.  Probably precipitated by rapid volume change and large
   diuresis.
   -attempt to maintain euvolemia today.
   #. Chronic kidney disease:  Etiology unknown but likely represents
   diabetic or hypertensive nephropathy.  Improving.
   - renally dose meds
   - follow UOP
   #. History of uterine bleeding:  Patient is s/p dilation and curettage
   and in the midst of an extensive post-menopausal bleeding w/u at
   Brown.  OB felt no indication to anticoagulation if otherwise
   intubated.
   FEN:  diabetic, heart healthy diet
   PPX:
   -DVT ppx with heparin sc
   -Bowel regimen with colace, senna
   - Pain management with tylenol
   ACCESS:  PIV's
   CODE STATUS:  Presumed full
   EMERGENCY CONTACT:  [**Name (NI) **], [**Name (NI) 1788**] [**Name (NI) **] [**Telephone/Fax (1) 4889**] (h) [**Telephone/Fax (1) 4890**]
   (c)
   DISPOSITION:  Family requested transfer back to previous hospital if
   possible due to travel concerns.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-3-13**] 11:59 AM
   18 Gauge - [**2122-3-15**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: